US04981993
0.17 mole acrylonitrile and 30 g (0.15 mole) of 95.5% by weight dibutoxyethanal in butanol were reacted using the method of example 1to form 22 g of 2-cyano-4,4-dibutoxy-3-hydroxy-1-butene which distilled at 108° C. under 0.1 mbar.

reactant | acrylonitrile | 0.17 mole | C(C=C)#N | C3H3N
reactant | dibutoxyethanal | C(CCC)OC(C=O)OCCCC | C10H20O3
solvent | butanol | C(CCC)O | C4H10O
product | 2-cyano-4,4-dibutoxy-3-hydroxy-1-butene | 22 g | C(#N)C(=C)C(C(OCCCC)OCCCC)O | C13H23NO3
